US09238667B2
Synthesis of (9H-fluoren-9-yl)methyl 2-oxopyrrolidine-1-carboxylate
Into a 500 mL four neck flask were added 2-pyrrolidone (8.51 g) [mw. 85.10, 100 mmol] and toluene (170 mL), and the mixture was dissolved. Powder sodium hydroxide (4.00 g) [mw. 40.00, 100 mmol] was added thereto, Dean-Stark trap was set, and the mixture was subjected to dehydration reflux for 4 hr. After cooling to 0° C., Fmoc-Cl (25.70 g) [mw. 258.70, 99 mmol] was added at not more than 5° C., the mixture was stirred at 25° C. for 2 hr, and water (43 mL) was added to allow for partitioning. The organic layer was washed with 5 w/w aqueous potassium hydrogen sulfate solution (43 mL), and further washed twice with water (43 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure. Pale-yellow oil, 30.56 g, yield 99.4%, 1H-NMR (500 MHz, CDCl3, TMS) δ 1.13 (d, J=6.3 Hz, 1H), 2.04 (quin, J=7.7 Hz, 2H), 2.57 (t, J=8.2 Hz, 2H), 3.75-3.82 (m, 2H), 4.49 (d, J=7.6 Hz, 2H), 7.30-7.36 (m, 2H), 7.37-7.45 (m, 2H), 7.70-7.79 (m, 4H). 13C-NMR (125 MHz, CDCl3, CDCl3) δ 17.56, 32.87, 46.41, 46.72, 68.59, 119.97, 125.35, 127.22, 127.87, 141.31, 143.53, 151.75, 173.79.

reactant | 2-pyrrolidone | 100 mmol, 8.51 g | N1C(CCC1)=O | C4H7NO
reactant | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 100 mmol, 4.00 g | [OH-].[Na+]
reactant | Fmoc-Cl | 99 mmol, 25.70 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | water | 43 mL | O | H2O
product | (9H-fluoren-9-yl)methyl 2-oxopyrrolidine-1-carboxylate | yield 99.4% | O=C1N(CCC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C19H17NO3
